US05559230
A solution of 5-hydroxyimino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.06 g) in acetic anhydride (10 ml) and pyridine (10 ml) is stirred at room temperature overnight. After completion of the reaction, the reaction solution is concentrated. To the resulting residue is added water and the mixture is extracted with dichloromethane. The extract is washed with saturated saline solution and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=80:1), and recrystallized from ethanol/petroleum ether to give 5-acetyloxyimino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.75 g) as colorless prisms, m.p. 142°-144° C.

reactant | 5-hydroxyimino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.06 g | ON=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O | C24H20ClN3O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-acetyloxyimino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.75 g | C(C)(=O)ON=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O | C26H22ClN3O4
